US04392882
29.4 g (0.2 mol) of dichloroacetyl chloride were added dropwise to a solution of 22.8 g (0.2 mol) of 2,5-dimethyl-piperazine in 150 ml of toluene at 20° C., while stirring. The mixture was subsequently stirred at 20° C. for 5 hours. Thereafter, the precipitate which had formed was filtered off and recrystallized twice from toluene. 8 g (24% of theory) of N,N'-bis-(dichloroacetyl)-2,5-dimethyl-piperazine were obtained in this manner in the form of colorless crystals of melting point 215° C.

reactant | dichloroacetyl chloride | 0.2 mol, 29.4 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 2,5-dimethyl-piperazine | 0.2 mol, 22.8 g | CC1NCC(NC1)C | C6H14N2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-bis-(dichloroacetyl)-2,5-dimethyl-piperazine | 8 g, 24% | ClC(C(=O)N1C(CN(C(C1)C)C(C(Cl)Cl)=O)C)Cl | C10H14Cl4N2O2
